US06589963B2
1-(2-Bromoethyl)indoline
To 1,2-dibromoethane (58.0 ml) were added indoline (5.0 g) and triethylamine (28.7 ml), and the mixture was stirred at 90° C. for 2 hr. Ethyl acetate (200 ml) was added to the reaction mixture, and the mixture was washed with saturated brine (400 ml) and dried over Na2SO4. Ethyl acetate was evaporated under reduced pressure. The obtained residue was purified by column chromatography to give the title compound (4.09 g).

reactant | 1,2-dibromoethane | 58.0 ml | BrCCBr | C2H4Br2
reactant | indoline | 5.0 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 28.7 ml | C(C)N(CC)CC | C6H15N
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Bromoethyl)indoline | 4.09 g | BrCCN1CCC2=CC=CC=C12 | C10H12BrN
